### PR TITLE
[Merged by Bors] - feat: add `Finset.cons_swap`

### PR DESCRIPTION
**Pull request by qawbecrdtey**
```
(s.cons a _).cons b _ = (s.cons b _).cons a _
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/Finset/Basic.lean [hunk 1]
```diff
@@ -807,6 +807,11 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+theorem cons_swap (h : a ≠ b) (ha : a ∉ s) (hb : b ∉ s) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:810]: I think this will be annoying to rewrite with, since `hb` cannot be resolved by unification. Can you instead assume `hb : b ∉ s.cons a ha`?

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:810]: I think this also lets you drop `h`

Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean:810]: But `simp` will convert `b ∉ s.cons a ha` to `b ≠ a` and `b ∉ s`. Could you explain more about it? @eric-wieser

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:810]: If you write the lemma I'm asking for, then I can show you an example of where it succeeds and yours fails.

Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean]: I got your point. Rewriting is likely with `ha` and the new `hb`, not the three hypotheses which I have given.

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean]: Here's the example:
```lean
import Mathlib

namespace Finset

variable {α} {s : Finset α}

theorem cons_swap_bad (h : a ≠ b) (ha : a ∉ s) (hb : b ∉ s) :
    (s.cons a ha).cons b (fun i ↦ hb ((mem_cons.mp i).elim (fun i ↦ False.elim (h (i ▸ rfl))) id))
    = (s.cons b hb).cons a (fun i ↦ ha ((mem_cons.mp i).elim (fun i ↦ False.elim (h i)) id)) := by
  apply Subset.antisymm <;> intro _ _ <;> simp [mem_cons] at * <;> tauto

theorem cons_swap_good (ha : a ∉ s) (hb : b ∉ s.cons a ha) :
    (s.cons a ha).cons b hb = (s.cons b fun h ↦ hb (mem_cons.mpr (.inr h))).cons a fun h ↦
      hb (mem_cons.mpr (.inl ((mem_cons.mp h).elim symm (fun h ↦ False.elim (ha h))))) := by
  apply Subset.antisymm <;> intro _ _ <;> simp [mem_cons] at * <;> tauto


example {x} (hx : x = cons 1 (cons 2 {3} (by simp)) (by simp)) :
    x = cons 2 (cons 1 {3} (by simp)) (by simp) := by
  rw [cons_swap_bad]
  · sorry -- creates two side goals
  · sorry
  · sorry

example {x} (hx : x = cons 1 (cons 2 {3} (by simp)) (by simp)) :
    x = cons 2 (cons 1 {3} (by simp)) (by simp) := by
  rw [cons_swap_good]
  sorry -- just the one goal
```

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -807,6 +807,11 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+theorem cons_swap (ha : a ∉ s) (hb : b ∉ s.cons a ha) :
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:810]:
```suggestion
theorem cons_comm (ha : a ∉ s) (hb : b ∉ s.cons a ha) :
```
to match `Set.insert_comm`.

Could you add `Finset.insert_comm` as well?

File: Mathlib/Data/Finset/Basic.lean [hunk 3]
```diff
@@ -807,6 +807,11 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
...
+    (s.cons a ha).cons b hb = (s.cons b fun h ↦ hb (mem_cons.mpr (.inr h))).cons a fun h ↦
+      hb (mem_cons.mpr (.inl ((mem_cons.mp h).elim symm (fun h ↦ False.elim (ha h))))) := by
+  apply Subset.antisymm <;> intro _ _ <;> simp [mem_cons] at * <;> tauto
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:813]: A slightly slicker proof:
```suggestion
      hb (mem_cons.mpr (.inl ((mem_cons.mp h).elim symm (fun h ↦ False.elim (ha h))))) := by
  Finset.coe_injective <| by simpa using Set.insert_comm b a s
```
this also raises that probably you have `a` and `b` backwards in the statement.

File: Mathlib/Data/Finset/Basic.lean (hunk 2 above)
Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean:810]: Does that imply `Multiset.cons_swap` should be also renamed to `Multiset.cons_comm`?

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:810]: Ouch, nice catch. Summoning @YaelDillies

Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean:810]: Also we already have [`insert_comm`](https://github.com/leanprover-community/mathlib4/blob/bc87839ae48935a0ee4540e49e93e32ac671d5b7/Mathlib/Data/Finset/Basic.lean#L993C1-L994C55).

File: Mathlib/Data/Finset/Basic.lean (hunk 3 above)
Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean]: I didn't change the order of `a` and `b` yet, as `b` being dependent on `a` is more likely than the other way around,

File: Mathlib/Data/Finset/Basic.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:810]: `Insert.comm` is surely misnamed as well! Can you create a zulip thread about this? I think we can merge your PR without addressing it, but it would be nice to clean up in a follow up.

File: Mathlib/Data/Finset/Basic.lean [hunk 4]
```diff
@@ -807,6 +807,11 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+theorem cons_swap (ha : a ∉ s) (hb : b ∉ s.cons a ha) :
+    (s.cons a ha).cons b hb = (s.cons b fun h ↦ hb (mem_cons.mpr (.inr h))).cons a fun h ↦
+      hb (mem_cons.mpr (.inl ((mem_cons.mp h).elim symm (fun h ↦ False.elim (ha h))))) :=
+  coe_injective <| by simpa using Set.insert_comm b a s
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:813]: Even shorter:
```suggestion
  eq_of_veq <| Multiset.cons_swap b a s.val
```

File: Mathlib/Data/Finset/Basic.lean [hunk 5]
```diff
@@ -807,6 +807,11 @@ theorem ssubset_iff_exists_cons_subset : s ⊂ t ↔ ∃ (a : _) (h : a ∉ s),
   obtain ⟨a, hs, ht⟩ := not_subset.1 h.2
   exact ⟨a, ht, cons_subset.2 ⟨hs, h.subset⟩⟩
 
+theorem cons_swap (ha : a ∉ s) (hb : b ∉ s.cons a ha) :
+    (s.cons a ha).cons b hb = (s.cons b fun h ↦ hb (mem_cons.mpr (.inr h))).cons a fun h ↦
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Basic.lean:811]: As mentioned elsewhere, I think this should really say `(s.cons b hb).cons a ha` aka `cons a (cons b hb) ha`, which matches the order of `Multiset.cons_swap`.

File: Mathlib/Data/Finset/Basic.lean (hunk 2 above)
Comment (qawbecrdtey) [reply Mathlib/Data/Finset/Basic.lean:810]: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Renaming.20theorems.20related.20to.20sets/near/475102498

Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean:810]: Thanks for [the thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Renaming.20theorems.20related.20to.20sets/near/475102498)!

Comment (YaelDillies) [reply Mathlib/Data/Finset/Basic.lean]: Yes, this should be `cons_comm`, the multiset lemma should also renamed (and `forall_swap` too, while we are at it), and `insert_comm` already exists under the name `Insert.comm`...

File: Mathlib/Data/Finset/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Finset/Basic.lean]: I'm just suggesting you swap the names around, not change anything else about the assumptions.

**Comment by eric-wieser** [comment]
bors merge

Thanks! We can clean up the swap / comm confusion later.
